US04737511
Ethyl 4-Bromo-3-(4-fluorophenyl)-2-butenoate
Ethyl 3-(4-fluorophenyl)-2-butenoate (548 g, 2.7 mol), N-bromosuccinimide (500 g, 2.8 mol) and benzoyl peroxide (6 g) are combined in carbon tetrachloride (4 L). The mixture is heated at reflux and irradiated with a UV lamp for 4 days. The mixture is then filtered and the filtrate evaporated, and the residue is dissolved in ether and washed five times with saturated aqueous sodium carbonate and once with brine. The ether layer is dried with magnesium sulfate and evaporated, to provide the title compound.

reactant | Ethyl 3-(4-fluorophenyl)-2-butenoate | 2.7 mol, 548 g | FC1=CC=C(C=C1)C(=CC(=O)OCC)C | C12H13FO2
reactant | N-bromosuccinimide | 2.8 mol, 500 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 6 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 4 L | C(Cl)(Cl)(Cl)Cl | CCl4
product | Ethyl 4-Bromo-3-(4-fluorophenyl)-2-butenoate | BrCC(=CC(=O)OCC)C1=CC=C(C=C1)F | C12H12BrFO2
